US06252084B1
[4-[[3-(2-Amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanois acid ethyl ester. 1-Decyl-5-hydroxy-2-methyl-1H-indole-3-acetamide (310 mg, 3.35 mmol) was reacted with 96 mg (2.4 mmol) of 50% NaH/mineral oil and then 0.32 mL (2.4 mmol) of ethyl 4-bromobutyrate as described in Example 50, Part D to give a product that was chromatographed on silica gel (eluted with 3% MeOH/methylene chloride) to give 590 mg (55% yield) of [4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester, mp, 93-95° C.

reactant | 1-Decyl-5-hydroxy-2-methyl-1H-indole-3-acetamide | 3.35 mmol, 310 mg | C(CCCCCCCCC)N1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C | C21H32N2O2
reactant | NaH | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 2.4 mmol, 0.32 mL | BrCCCC(=O)OCC | C6H11BrO2
product | 4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | 55% yield | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CCCCCCCCCC)C)CC(=O)N)=O | C27H42N2O4
